US07410976B2
8-cyclopropyl-4-(2-hydroxy-ethoxy)-[1,7]naphthyridine-2-carboxylic acid.
The intended compound was produced according to the procedures described in reference examples 35 and 36 but using 8-cyclopropyl-4-hydroxy-[1,7]naphthyridine-2-carboxylic acid and acetic acid 2-bromoethyl ester in place of 1-Cyclopropyl-5-hydroxy-isoquinoline-7-carboxylic acid methyl ester and iodomethane.

reactant | 8-cyclopropyl-4-hydroxy-[1,7]naphthyridine-2-carboxylic acid | C1(CC1)C=1N=CC=C2C(=CC(=NC12)C(=O)O)O | C12H10N2O3
reactant | acetic acid 2-bromoethyl ester | BrCCOC(C)=O | C4H7BrO2
reactant | iodomethane | IC | CH3I
product | 8-cyclopropyl-4-(2-hydroxy-ethoxy)-[1,7]naphthyridine-2-carboxylic acid | C1(CC1)C=1N=CC=C2C(=CC(=NC12)C(=O)O)OCCO | C14H14N2O4
